US08871819B2
Synthesis of Decaglycerol Dodecyldecanoate (Method IV)
Into a 250 mL vessel, decaglycerol (5.0 g, 6.59 mmol) was added and dissolved into anhydrous THF (50 mL). Decanoic acid (13.62 g, 79.07 mmol) was also dissolved into the reaction mixture which was stirred magnetically at room temperature for one hour to fully dissolve the reagents. Sulfuric acid (200 uL, 3.75 mmol) was pipetted into the vessel and was sealed to keep the reaction dry. The reaction was brought to reflux set up with a condenser in a heating mantle equipped with a magnetic stir plate. The reaction was left to proceed overnight (16 h). The solution was then stripped of THF via rotoevaporation and redissolved into chloroform. The organic layer was washed 2× with sodium bicarbonate buffer and 2× with deionized water to remove unreacted starting materials. The chloroform was removed to yield a white waxy precipitate with a melting point around room temperature.

reactant | decaglycerol | 6.59 mmol, 5.0 g | C(C(COCC(COCC(COCC(COCC(COCC(COCC(COCC(COCC(COCC(CO)O)O)O)O)O)O)O)O)O)O)O | C30H62O21
reactant | Decanoic acid | 79.07 mmol, 13.62 g | C(CCCCCCCCC)(=O)O | C10H20O2
reactant | Sulfuric acid | 3.75 mmol, 200 uL | S(O)(O)(=O)=O | H2O4S
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Decaglycerol Dodecyldecanoate | C(CCCCCCCCCCC)C(C(=O)O)CCCCCCCC.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO | InChI=1S/C22H44O2.10C3H8O3/c1-3-5-7-9-11-12-13-14-16-18-20-21(22(23)24)19-17-15-10-8-6-4-2;10*4-1-3(6)2-5/h21H,3-20H2,1-2H3,(H,23,24);10*3-6H,1-2H2
